US09428512B2
Intermediate 19: tert-Butyl 4-(3-(4-amino-5-((benzyloxy)methyl)-2-butyl-5H-pyrrolo[3,2-d]pyrimidin-7-yl)prop-2-yn-1-yl)piperazine-1-carboxylate
To a degassed solution of 5-((benzyloxy)methyl)-2-butyl-7-iodo-5H-pyrrolo[3,2-d]pyrimidin-4-amine (150 mg, 0.344 mmol) in anhydrous N,N-dimethylformamide (3 mL) under nitrogen atmosphere at room temperature was added copper(I) iodide (13 mg, 0.068 mmol), bis(triphenylphosphine)palladium(II)dichloride (27 mg, 0.038 mmol) and, finally, triethylamine (0.086 mL, 0.619 mmol). The mixture was stirred at room temperature under nitrogen atmosphere for 10 minutes and then tert-butyl 4-(prop-2-yn-1-yl)piperazine-1-carboxylate (139 mg, 0.619 mmol) was added in one portion. The reaction mixture was heated to 55° C. in a pre-heated oil bath and stirred at 55° C. for 40 minutes. The reaction was evaporated in vacuo to yield a dark brown oil. The oil was partitioned between water and dichloromethane. The organic layer was separated and the aqueous back extracted with dichloromethane. The combined organic extracts were passed through a hydrophobic frit and evaporated in vacuo to yield a dark brown oil. The oil was dissolved in MeOH:DMSO (1:1) (2×1 mL) and purified by MDAP (Method B). Appropriate fractions were combined and evaporated in vacuo to yield the title compound as a brown oil (180 mg).

reactant | 5-((benzyloxy)methyl)-2-butyl-7-iodo-5H-pyrrolo[3,2-d]pyrimidin-4-amine | 0.344 mmol, 150 mg | C(C1=CC=CC=C1)OCN1C=C(C=2N=C(N=C(C21)N)CCCC)I | C18H21IN4O
reactant | triethylamine | 0.619 mmol, 0.086 mL | C(C)N(CC)CC | C6H15N
reactant | tert-butyl 4-(prop-2-yn-1-yl)piperazine-1-carboxylate | 0.619 mmol, 139 mg | C(C#C)N1CCN(CC1)C(=O)OC(C)(C)C | C12H20N2O2
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | MeOH DMSO | 1 mL | CO.CS(=O)C
catalyst | copper(I) iodide | 0.068 mmol, 13 mg | [Cu]I
catalyst | bis(triphenylphosphine)palladium(II)dichloride | 0.038 mmol, 27 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | tert-Butyl 4-(3-(4-amino-5-((benzyloxy)methyl)-2-butyl-5H-pyrrolo[3,2-d]pyrimidin-7-yl)prop-2-yn-1-yl)piperazine-1-carboxylate | 180 mg | NC=1C2=C(N=C(N1)CCCC)C(=CN2COCC2=CC=CC=C2)C#CCN2CCN(CC2)C(=O)OC(C)(C)C | C30H40N6O3
